US07902181B2
(S)-N-((S)-1-Cyano-2-(3′-(2-cyanoethylcarbamoyl)biphenyl-4-yl)ethyl)piperidine-2-carboxamide
Prepared by a process analogous to that described in Method 2 Example 2 using (S)-tert-butyl 2-((S)-1-cyano-2-(4-iodophenyl)ethylcarbamoyl)piperidine-1-carboxylate and 3-(2-cyanoethylcarbamoyl)phenylboronic acid. NMR appeared to show the product was a free base.

reactant | (S)-tert-butyl 2-((S)-1-cyano-2-(4-iodophenyl)ethylcarbamoyl)piperidine-1-carboxylate | C(#N)[C@H](CC1=CC=C(C=C1)I)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C20H26IN3O3
reactant | 3-(2-cyanoethylcarbamoyl)phenylboronic acid | C(#N)CCNC(=O)C=1C=C(C=CC1)B(O)O | C10H11BN2O3
product | (S)-N-((S)-1-Cyano-2-(3′-(2-cyanoethylcarbamoyl)biphenyl-4-yl)ethyl)piperidine-2-carboxamide | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C(NCCC#N)=O)NC(=O)[C@H]1NCCCC1 | C25H27N5O2
